US20010027208A1
A 5.00 g (22.4 mmol) portion of 8-bromooctanoic acid was dissolved in a mixed solvent of 2 ml dichloromethane and 10 ml hexane, and the solution was mixed with 8.00 ml (44.8 mmol) of tert-butyl 2,2,2-trichloroacetoimidate and 0.45 ml (3.66 mmol) of boron trifluoride-ether complex and stirred at room temperature for 1 hour. The reaction solution was mixed with 10 ml of hexane and 0.031 g (3.66 nmnol) of sodium bicarbonate, the resulting precipitate was separated by filtration, and then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=5/1) to obtain 2.34 g (yield, 38%) of tert-butyl 8-bromooctanoate.

reactant | 8-bromooctanoic acid | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | tert-butyl 2,2,2-trichloroacetoimidate | 44.8 mmol, 8.00 ml | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | sodium bicarbonate | 0.031 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | hexane | 10 ml | CCCCCC | C6H14
product | tert-butyl 8-bromooctanoate | 2.34 g, 38% | BrCCCCCCCC(=O)OC(C)(C)C | C12H23BrO2
